US05089504
A. Preparation of 2-(1-hydroxyethyl)aniline
Sodium borohydride (40 g, 1.0 mol) was added portion wise to a stirred solution of o-aminoacetophenone (80 g) in methanol (800 ml) at 0°, allowing the effervescence to subside between each addition. Cooling was removed and the mixture allowed to warm to reflux temperature to complete the reaction. When cool, the solvent was evaporated and the residue partioned between dichloromethane-water. The organic solution was washed successively with water and brine, dried (anhyd. MgSO4), filtered and evaporated to a light yellow oil which crystallized from petroleum spirit (40°-60°) to give white crystals (52 g, 64%), m.p. 50°-52°.

reactant | Sodium borohydride | 1.0 mol, 40 g | [BH4-].[Na+]
reactant | o-aminoacetophenone | 80 g | NC1=C(C=CC=C1)C(C)=O | C8H9NO
solvent | methanol | 800 ml | CO | CH4O
product | 2-(1-hydroxyethyl)aniline | 52 g, 64% | OC(C)C1=C(N)C=CC=C1 | C8H11NO
